US07446118B2
Degoussa-type catalyst (50% Pd/C, 45 mg) was added to a solution of 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester CXVI (0.40 g, 1.2 mmol) in EtOH/DCM (6/1, 40 ml). The resulting mixture was hydrogenated in a Parr apparatus at 50 psi of H2 for 16 hours, filtered through celite, and the filter cake was washed with EtOH and DCM. The filtrate was concentrated, affording 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester CXVII.

reactant | 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C=CNC2=CC(=C1)OC)=O | C20H19NO3
solvent | EtOH DCM | 40 ml | CCO.C(Cl)Cl
catalyst | Pd/C | [Pd] | Pd
product | 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C1=C2C=CNC2=CC(=C1)OC)=O | C20H21NO3
